US07232926B2
N-Methyl-N-[1-methylethyl]sulfamoyl chloride
63.2 g (0.41 mol) of sulfur trioxide as a 52% solution in 1,2-dichloroethane were added with stirring at from 0 to 5° C. within 15 min to a solution of 70.0 g (0.752 mol) of α-picoline in 250 ml of 1,2-dichloroethane, followed by washing with 50 ml of 1,2-dichloroethane and stirring for 15 min until the temperature rose to 25° C. 26.3 g (0.342 mol) of 95% pure N-methyl-N-[1-methylethyl]amine were then added within 15 min with stirring at from 20 to 35° C., followed by washing with 50 ml of 1,2-dichloroethane and stirring at 55° C. for 15 min. After cooling to 20° C., 42.7 g (0.205 mol) of phosphorus pentachloride were added with stirring at from 20 to 32° C. within 15 min with external cooling, followed by washing with 150 ml of 1,2-dichloroethane. After stirring at 70° C. for 2 h, the reaction mixture was concentrated under reduced pressure and distilled via a Normag column head having a 10 cm column. 35 g (59.6% of theory) of the title compound having a boiling point of 110-115° C./30 mbar were obtained. Refractive index nD23=1.4620.

reactant | sulfur trioxide | 0.41 mol, 63.2 g | S(=O)(=O)=O | O3S
reactant | α-picoline | 0.752 mol, 70.0 g | N1=C(C=CC=C1)C | C6H7N
reactant | N-methyl-N-[1-methylethyl]amine | 0.342 mol, 26.3 g | CNC(C)C | C4H11N
reactant | phosphorus pentachloride | 0.205 mol, 42.7 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 250 ml | ClCCCl | C2H4Cl2
product | N-Methyl-N-[1-methylethyl]sulfamoyl chloride | CN(S(=O)(=O)Cl)C(C)C | C4H10ClNO2S
